US08877782B2
a) 3-Phenyl-isoxazole-4-carboxylic acid methyl ester
To a mixture of (E)- and/or (Z)—N-hydroxy-benzenecarboximidoyl chloride (12.0 g, 77 mmol) and 4-nitro-benzoic-acid (E)-2-methoxycarbonyl-vinyl ester (9.7 g, 39 mmol) in dichloromethane (200 mL) was added triethylamine (20.9 mL, 150 mml) and the resulting solution stirred overnight at room temperature. The mixture was then diluted with dichloromethane (500 mL) and the organic extract removed and washed with water, dried over sodium sulfate and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 4:1) afforded the title product (3.1 g, 40%) which was obtained as a light yellow oil. MS: m/e=204.2 [M+H]+.

reactant | (Z)—N-hydroxy-benzenecarboximidoyl chloride | 77 mmol, 12.0 g | O\N=C(\C1=CC=CC=C1)/Cl | C7H6ClNO
reactant | 4-nitro-benzoic-acid (E)-2-methoxycarbonyl-vinyl ester | 39 mmol, 9.7 g | COC(=O)/C=C/OC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C11H9NO6
reactant | triethylamine | 20.9 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 3-Phenyl-isoxazole-4-carboxylic acid methyl ester | 3.1 g, 40% | COC(=O)C=1C(=NOC1)C1=CC=CC=C1 | C11H9NO3
